US08604069B2
(A-27-12) tert-Butyl 3-[5-cyclopropyl-1-(3-isobutylcyclobutyl)-1H-[1,2,3]triazol-4-yl]-4-(2,4-dimethylphenylcarbamoyl)butyrate
Mono-tert-butyl 3-[5-cyclopropyl-1-(3-isobutylcyclobutyl)-1H-[1,2,3]triazol-4-yl]glutarate (106 mg), 2,4-dimethylphenylamine (0.0356 mL) and DMF (1 mL) were mixed. To the mixture were added HOBt.H2O (48.2 mg) and WSC.HCl (60.3 mg) at ice temperature. After stirring at RT overnight, saturated aqueous sodium bicarbonate was added to the reaction mixture at ice temperature. The mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, then dried over sodium sulfate. The sodium sulfate was filtered off and the filtrate was concentrated in vacuo. The resultant residue was purified by preparative chromatography (Eluent: ethyl acetate/hexane=1/2) to give the title compound (105 mg).

reactant | Mono-tert-butyl 3-[5-cyclopropyl-1-(3-isobutylcyclobutyl)-1H-[1,2,3]triazol-4-yl]glutarate | 106 mg | C1(CC1)C1=C(N=NN1C1CC(C1)CC(C)C)C(CC(=O)OC(C)(C)C)CC(=O)[O-]
reactant | 2,4-dimethylphenylamine | 0.0356 mL | CC1=C(C=CC(=C1)C)N | C8H11N
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 60.3 mg | CCN=C=NCCCN(C)C.Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | H2O | 48.2 mg | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-[5-cyclopropyl-1-(3-isobutylcyclobutyl)-1H-[1,2,3]triazol-4-yl]-4-(2,4-dimethylphenylcarbamoyl)butyrate | 105 mg | C1(CC1)C1=C(N=NN1C1CC(C1)CC(C)C)C(CC(=O)OC(C)(C)C)CC(NC1=C(C=C(C=C1)C)C)=O | C30H44N4O3
